US05773470
Cyanoacetic acid (1.5 g; 17.6 mmol) and phosphorus pentachloride (4.1 g; 19.4 mmol) are heated under reflux in dichloromethane (40 ml) for 1 hour. 3-Methyl-4-nitroaniline (1.6 g; 10.6 mmol) is added and the mixture is heated for a further hour under reflux conditions. After cooling, the solid is filtered and stirred with water for a further hour, the mixture is filtered and the filtrate is brought to dryness under reduced pressure. 2-Cyano-N-(3-methyl-4-nitrophenyl)acetamide (1.4 g; 64%) is thus obtained.

reactant | Cyanoacetic acid | 17.6 mmol, 1.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | phosphorus pentachloride | 19.4 mmol, 4.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-Methyl-4-nitroaniline | 10.6 mmol, 1.6 g | CC=1C=C(N)C=CC1[N+](=O)[O-] | C7H8N2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-Cyano-N-(3-methyl-4-nitrophenyl)acetamide | 1.4 g, 64% | C(#N)CC(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C | C10H9N3O3
